US04291034
To 3.0 g of 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-10-hydroxy-1,9(2H,10H)-acridinedione suspended in 30 ml of chloroform is added dropwise 2.1 g of phosphorous trichloride in 20 ml of chloroform. The suspension is warmed at 50° C. for 2 hrs and filtered while warm. The solid is suspended in aqueous ethanol and filtered to give 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-1,9(2H,10H)-acridinedione as a cream solid; mp >325° C.

reactant | 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-10-hydroxy-1,9(2H,10H)-acridinedione | 3.0 g | ClC1=CC=C2N(C=3CC(CC(C3C(C2=C1)=O)=O)C1=CC(=C(C=C1)Cl)Cl)O | C19H12Cl3NO3
reactant | phosphorous trichloride | 2.1 g | P(Cl)(Cl)Cl | Cl3P
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-1,9(2H,10H)-acridinedione | ClC1=CC=C2NC=3CC(CC(C3C(C2=C1)=O)=O)C1=CC(=C(C=C1)Cl)Cl | C19H12Cl3NO2
